US05098923
4-[5-(2,6-dimethylphenyl)-3-(2,6-dimethylphenylethyl)pentyl]-1H-imidazole
4,0 g of 1-benzyl-5-[5-(2,6-dimethylphenyl)-3-hydroxy-3-(2,6-dimethylphenylethyl)pentyl]-1H-imidazole hydrochloride and 20 g of kalium hydrogen sulfate is combined and the mixture is heated for 6 hours at 150° C. Ethanol (40 ml) is added and the mixture is filtered. 20 ml of conc. hydrochloric acid is added and the mixture is hydrogenated palladium on carbon (10%) as catalyst until the hydrogen consumption ceases. The reaction mixture is filtered, water is added and the mixture is made alkaline with sodium hydroxide. The product is then extracted into toluene, which is washed with water, and evaporated to dryness. The residue which is the product as base, is converted to nitrate with nitric acid in water. M.p. 147°-150° C.

reactant | 1-benzyl-5-[5-(2,6-dimethylphenyl)-3-hydroxy-3-(2,6-dimethylphenylethyl)pentyl]-1H-imidazole hydrochloride | 4,0 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1CCC(CCC1=C(C=CC=C1C)C)(CCC1=C(C=CC=C1C)C)O
reactant | kalium hydrogen sulfate | 20 g | S(=O)(=O)(O)[O-].[K+]
solvent | Ethanol | 40 ml | C(C)O | C2H6O
product | 4-[5-(2,6-dimethylphenyl)-3-(2,6-dimethylphenylethyl)pentyl]-1H-imidazole | CC1=C(C(=CC=C1)C)CCC(CCC=1N=CNC1)CCC1=C(C=CC=C1C)C | C26H34N2
